US07935725B2
Step A: (4S,2R)-4-Methanesulfonyloxy-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester.
To a solution of 4-hydroxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (10.85 g, 50.0 mmol) in pyridine (50 mL) was added methanesulfonyl chloride (10.8 mL, 140 mmol) over a period of 20 min. After stirring for 16 h, the reaction mixture was concentrated to dryness, diluted with satd. aq. Na2CO3 and extracted with EtOAc (2×). The combined organic layers were dried (MgSO4), filtered and concentrated to provide the title compound as an oil that slowly solidified (14.4 g, 84%). 1H NMR (400 MHz, CDCl3): 5.24-5.20 (m, 1H), 4.72-4.47 (m, 1H), 4.32-4.17 (m, 2H), 4.01-3.75 (m, 1H), 3.63-3.48 (m, 1H), 3.04 (s, 3H), 3.01 (s, 3H), 2.60-2.25 (m, 2H), 1.48 (s, 9H).

reactant | 4-hydroxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 50.0 mmol, 10.85 g | C(C)(C)(C)OC(=O)N1C(CC(C1)O)CO | C10H19NO4
reactant | methanesulfonyl chloride | 140 mmol, 10.8 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | (4S,2R)-4-Methanesulfonyloxy-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)OS(=O)(=O)C)COS(=O)(=O)C | C12H23NO8S2
